US05246926
(a) t-Butyl (6R,7R)-7-amino-3-[(4RS)-2-oxotetrahydrofuran-4-yl]ceph-3-em-4-carboxylate
A solution of phosphorous pentachloride (0.380 g, 1.8 mmol) in dichloromethane (9.5 ml) was added to t-butyl (6R,7R)-3-[(4RS)-2-oxotetrahydrofuran-4-yl]-7-phenoxyacetamidoceph-3-em-4-carboxylate (0.554 g, 1.2 mmol) and N-methylmorpholine (265 μh, 2.4 mmol) in dichloromethane (15 ml) at <-20° C. under argon. Stirred 0.5 h at -15°±5° C. then methanol (3.5 ml) added, stirred 0.75 h then water (10 ml) added and stirred vigorously 1 h. The dichloromethane was removed in vacuo. ethyl acetate added and the aqueous layer adjusted to pH7 with dilute ammonium hydroxide and extracted twice with ethyl acetate. The extracts were washed with brine, dried, concentrated and flash chromatographed on silica gel eluting with 40,50,60,70,75% ethyl acetate in hexane to provide the title compound as a foam (0.120 g, 29%): (Found: M+, 340.1113. C15H20N2O5S requires M, 340.1093); νmax (CH2Cl2) 1775, 1715, 1367, 1155 cm-1 ; δH (250 MHz, CDCl3) 1.54 (9H, s , 1.97 (2H, bs), 2.35-2.95 (2H, m), 3.26 and 3.49 3.28 and 3.49 (2H, 2ABq, J 17.7 Hz), 4.0-4.45 (3H, m), 4.77, 4.79 (1H, 2d, J 4.7 Hz), 4.93, 4.95 (1H, 2d, J 4.7 Hz).

reactant | phosphorous pentachloride | 1.8 mmol, 0.380 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | t-butyl (6R,7R)-3-[(4RS)-2-oxotetrahydrofuran-4-yl]-7-phenoxyacetamidoceph-3-em-4-carboxylate | 1.2 mmol, 0.554 g | O=C1OCC(C1)C=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C23H26N2O7S
reactant | N-methylmorpholine | 2.4 mmol | CN1CCOCC1 | C5H11NO
reactant | methanol | 3.5 ml | CO | CH4O
solvent | dichloromethane | 9.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | t-Butyl (6R,7R)-7-amino-3-[(4RS)-2-oxotetrahydrofuran-4-yl]ceph-3-em-4-carboxylate | 0.120 g, 29% | N[C@H]1[C@@H]2N(C(=C(CS2)C2CC(OC2)=O)C(=O)OC(C)(C)C)C1=O | C15H20N2O5S
